US06528232B1
After 10 g of 2-bromo-1-indanone was dissolved into 50 ml of ethanol, 25 ml of a 15% aqueous solution of a sodium salt of methylmercaptan was added dropwise thereto. After stirring for 3 hours at room temperature, the reaction mixture was poured into 300 ml of cold water. After 200 ml of ether was added thereto for extracting an organic phase, the ether layer was sequentially washed with an aqueous sodium chloride solution and water. After the ether layer was dried with magnesium sulfate, the ether was evaporated under vacuum. The residue was isolated and purified through a silica gel column (elute: hexane/ethyl acetate=7/1) to provide 3.2 g of 2-(methylthio)-1-indanone (yield: 38%).

reactant | 2-bromo-1-indanone | 10 g | BrC1C(C2=CC=CC=C2C1)=O | C9H7BrO
reactant | ethanol | 50 ml | C(C)O | C2H6O
reactant | sodium | [Na] | Na
reactant | methylmercaptan | CS | CH4S
solvent | ether | 200 ml | CCOCC | C4H10O
solvent | water | 300 ml | O | H2O
product | 2-(methylthio)-1-indanone | 3.2 g, yield: 38% | CSC1C(C2=CC=CC=C2C1)=O | C10H10OS
